US06525042B1
2-[[4-[(6-Chloronaphthalen-2-yl)sulfonyl]piperazin-1-yl]carbonyl]-6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine N-oxide
In acetone (10 ml), 1-[(6-chloronaphthalen-2-yl)sulfonyl]-4-[(6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]piperazine hydrochloride (400 mg) was suspended, followed by the addition of a 1N aqueous solution of sodium hydroxide (0.38 ml) and 30% aqueous hydrogen peroxide (3.50 ml). The resulting mixture was stirred at room temperature for 8 days. After the reaction mixture was concentrated under reduced pressure, the residue was purified by the chromatography through a synthetic adsorbent (“Diaion HP-20”, water˜water:acetonitrile=2:5), whereby the title compound (84 mg, 39%) was obtained.

reactant | 1-[(6-chloronaphthalen-2-yl)sulfonyl]-4-[(6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]piperazine hydrochloride | 400 mg | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(=O)C=1SC=2CNC(CC2N1)C
reactant | sodium hydroxide | 0.38 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 3.50 ml | OO | H2O2
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 2-[[4-[(6-Chloronaphthalen-2-yl)sulfonyl]piperazin-1-yl]carbonyl]-6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine N-oxide | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(=O)C=1SC=2CNC(CC2[N+]1[O-])C | C22H23ClN4O4S2
